US08685975B2
4-(Furan-2-yl)-2,6-dimethoxyphenyl benzoate was reacted with N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide according to the procedure described for the synthesis of Example 12 except that the reaction was warmed to only 0° C. Purification by chromatography (EtOAc-hexanes) provided 2,6-dimethoxy-4-(5-(2-methoxy-2-(4-morpholinophenyl)acetyl)furan-2-yl)phenyl benzoate as a yellow solid (0.257 g, 50% yield). MS: m/z 558.2 [M+H]+.

reactant | 4-(Furan-2-yl)-2,6-dimethoxyphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C19H16O5
reactant | N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide | CON(C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)C | C15H22N2O4
product | 2,6-dimethoxy-4-(5-(2-methoxy-2-(4-morpholinophenyl)acetyl)furan-2-yl)phenyl benzoate | 0.257 g, 50% yield | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1OC)C=1OC(=CC1)C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)OC | C32H31NO8
